US06458347B1
BOC-Phe (manufactured and sold by PEPTIDE INSTITUTE INC., Japan, 10.6 g) was dissolved in 100 ml of ethyl acetate, to thereby obtain a solution. To the obtained solution were added 10.0 g of phenacyl bromide and 5.1 g of triethylamine while cooling over ice, followed by stirring. The reaction temperature was elevated to room temperature, followed by stirring overnight to effect a reaction, thereby obtaining a reaction mixture. The obtained reaction mixture was evaporated to dryness, to thereby obtain a residue. The obtained residue was dissolved in 50 ml of ethyl acetate and the resultant solution was washed with a saturated aqueous sodium hydrogencarbonate solution and then with saturated saline. The washed solution was dried with magnesium sulfate and concentrated under reduced pressure, to thereby obtain 13.4 g of BOC-Phe phenacyl ester. Further, to 1.9 g of BOC-Phe phenacyl ester was added 5 ml of trifluoroacetic acid (TFA), followed by stirring for 10 minutes. The resultant reaction mixture was evaporated to dryness under reduced pressure for removing TFA, to thereby obtain a residue. To the obtained residue were added 20 ml of DMF, 0.61 g of N-methylmorpholine, 1.24 g of DCC, 0.81 g of HOBT and BOC-Gly (manufactured and sold by PEPTIDE INSTITUTE INC., Japan 1.05 g), followed by stirring overnight at room temperature, to thereby obtain a reaction mixture. The obtained reaction mixture was concentrated under reduced pressure, to thereby obtain a residue. The obtained residue was dissolved in 50 ml of ethyl acetate, and the resultant solution was washed with 0.1 N hydrochloride cooled with ice, saturated saline, a saturated aqueous sodium hydrogencarbonate solution and again saturated saline successively. The washed solution was dried with magnesium sulfate and concentrated under reduced pressure, to thereby obtain 1.5 g of BOC-Gly-Phe phenacyl ester. Further, to 1.6 g of BOC-Gly-Phe phenacyl ester was added 5 ml of trifluoroacetic acid (TFA), followed by stirring for 10 minutes, to thereby obtain a reaction mixture. The obtained reaction mixture was evaporated to dryness under reduced pressure for removing TFA, to thereby obtain a residue. To the obtained residue were added 20 ml of DMF, 0.40 g of N-methylmorpholine, 0.83 g of DCC, 0.54 g of HOBT and 0.84 g of Z-Gly (manufactured and sold by Kokusan Chemical Works Ltd., Japan), followed by stirring overnight at room temperature, to thereby obtain a reaction mixture. The obtained reaction mixture was concentrated under reduced pressure, to thereby obtain a residue. The obtained residue was dissolved in 50 ml of ethyl acetate and the resultant solution was washed with 0.1 N solution hydrochloride cooled with ice, saturated saline, a saturated aqueous sodium hydrogencarbonate solution and again saturated saline successively. The washed solution was dried with magnesium sulfate and concentrated under reduced pressure, to thereby obtain 1.1 g of Z-Gly-Gly-Phe phepacyl ester. 1.1 g of Z-Gly-Gly-Phe phenacyl ester was dissolved in 30 ml of 90% acetic acid, to obtain a mixture. To the obtained mixture was added 4 g of zinc dust, followed by stirring at room temperature for 5 hours, to thereby obtain a reaction mixture. The obtained reaction mixture was subjected to filtration and evaporated to dryness, to thereby obtain a residue. The obtained residue was dissolved in 30 ml of ethyl acetate and the resultant solution was washed with 10% citric acid and then with saturated saline successively, dried with magnesium sulfate and concentrated under reduced pressure, to thereby obtain 0.62 g of Z-Gly-Gly-Phe.

reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methylmorpholine | 0.40 g | CN1CCOCC1 | C5H11NO
reactant | DCC | 0.83 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 0.54 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Z-Gly | 0.84 g | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Z-Gly-Gly-Phe | 1.1 g | N(CC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H23N3O6
